US06492403B1
A solution of 450 mg (1.75 mmol) of isopropyl 5-ethyl-4-(aminothioxomethyl)-5-ethylthiophene-2-carboxylate was reacted with 348 mg (1.75 mmol) of 2-bromoacetophenone (Aldrich, Milaukee, Wis., USA) in a manner similar to Example 8, step (a) to give isopropyl 5-ethyl-4-(4-phenyl(1,3-thiazol-2-yl))thiophene-2-carboxylate (303 mg, 49%) as an off-white solid. 1H-NMR (DMSO-d6; 300 MHz) δ8.22 (s, 1H), 8.07 (s, 1H), 8.03 (m, 2H), 7.49 (m, 2H), 7.38 (m, 1H), 5.13 (septet, 1H, J=6.2 Hz), 3.34 (q, 2H, J=7.4 Hz), 1.39 (t, 3H, J=7.4 Hz), 1.33 (d, 6H, J=6.2 Hz). Mass spectrum (ESI, m/z): Calcd. for C19H19NO2S2 358.1 (M+H), found 358.1.

reactant | isopropyl 5-ethyl-4-(aminothioxomethyl)-5-ethylthiophene-2-carboxylate | 1.75 mmol, 450 mg | C(C)C1(C(=CC(S1)C(=O)OC(C)C)C(=S)N)CC | C13H21NO2S2
reactant | 2-bromoacetophenone | 1.75 mmol, 348 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
product | isopropyl 5-ethyl-4-(4-phenyl(1,3-thiazol-2-yl))thiophene-2-carboxylate | 303 mg, 49% | C(C)C1=C(C=C(S1)C(=O)OC(C)C)C=1SC=C(N1)C1=CC=CC=C1 | C19H19NO2S2
